US04714838
Preparation of 1,3-Diethyl-2,4,6-(1H,3H,5H)-Pyrimidinetrione
Acetic anhydride (16 ml, 0.15 mole) was added dropwise over two hours to a solution of 1,3-diethylurea (5.3 g, 0.05 mole) and malonic acid (5.2 g, 0.05 mole) in acetic acid (40 ml) at 65° C. After the addition was complete, the temperature was raised to 90° C. and maintained there for three hours. The solvent was evaporated under reduced pressure and the residue boiled with ethanol for fifteen minutes. After some time, 1,3-diethyl-2,4,6-(1H,3H,5H)- pyrimidinetrione crystallized in cubic crystals, m.p. 52° C.

reactant | Acetic anhydride | 0.15 mole, 16 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,3-diethylurea | 0.05 mole, 5.3 g | C(C)NC(=O)NCC | C5H12N2O
reactant | malonic acid | 0.05 mole, 5.2 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1,3-Diethyl-2,4,6-(1H,3H,5H)-Pyrimidinetrione | C(C)N1C(N(C(CC1=O)=O)CC)=O | C8H12N2O3
